Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / metoclopramide  / erythromycin base
 
Attending: ___.
 
Chief Complaint:
nausea / vomiting 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ YOM PMHx ankylosing spondylitis c/b subsequent 
steroid-induced DM, paroxysmal afib (not on warfarin), and 
gastroparesis who presented with emesis and back pain x 12 hours 
admitted to ICU for sepsis. 

Per patient, he was feeling well until this AM, when he had ___ 
episodes of "spitting up" associated with significant episodes 
of dry heaving. He reports these symptoms were consistent with 
his typical gastroparesis symptoms. In addition, patient reports 
he has had a cough, although this is chronic for him. He reports 
his wife has been sick with a cough but she is getting better. 
He denies fever/chills, abdominal pain, hematemesis, diarrhea, 
melena, hematochezia, dysuria. 

In the ED, initial vitals: 101.1, ___, 18, reportedly 
in mid-80s on RA (not recorded per ED signout)
- Exam notable for: ill appearing, diaphoretic man. Lung exam 
c/f diffuse wheeze/rhonchi. Abdominal exam was benign.
- Labs were notable for: 
23.8>12.1/37.3<451
Lactate 2.5 -> Lactate 1.1
Normal LFTs, lipase
U/A with (+) ketones
VBG pH 7.54 pCO2 28 pO2 123 HCO3 25 
- While in the ED patient triggered for SBPs 82/52 and worsening 
hypoxia requiring 5L NC. He received 1L IVF, stress-dose 
steroids, and was initiated on broad-spectrum abx 
(vanc/cefepime/flagyl) with improvement in SBPs to 100s.
- Imaging was notable for:
CXR (___): IMPRESSION: Mild basal atelectasis. Otherwise 
unremarkable. 
CT A/P (___):
1. Bilateral lower lobe pneumonia. Enlarged mediastinal lymph 
node is likely reactive.
2. Re- demonstration of multifocal ground-glass opacities which 
may represent a component of multifocal pneumonia, though the 
distribution appears somewhat similar to the prior examination 
and may represent drug reaction.
3. No acute aortic abnormality or pulmonary embolus.
4. New, subtle 3.9 x 2.6 cm hypoattenuating lesion in hepatic 
segment IV B.
5. Bony sequela of ankylosing spondylitis, as above. Stable 
vertebral body compression deformities, as above. Gadolinium 
enhanced MR is recommended for further evaluation of a new 
hepatic lesion.

- Patient received:
Dilaudid, Tylenol 
Cefepime, vancomycin, Flagyl 
100mg IV hydrocortisone
3L IVF with NS
Nebulizer treatments
- VS prior to transfer: 98.5, 95, 118/79, 16, 94% Nasal Cannula 

On arrival to the MICU, patient reports severe pain in his lower 
back and shoulders because he has not gotten his normal pain 
medications. He reports he has been unable to keep anything 
down.

Of note, patient was discharged on ___ for gastroparesis; his 
symptoms of nausea and vomiting were controlled with 
Ativan/Zofran and he was tolerating PO well prior to discharge. 

ROS: 10-point ROS negative except as noted above in HPI
 
Past Medical History:
Ankylosing spondylitis diagnosed in ___, on chronic prednisone 
for nearly ___ years and infliximab monthly
Corticosteroid-induced diabetes mellitus c/b peripheral 
neuropathy
Corticosteroid-induced HTN 
Multiple episodes of vomiting requiring hospitalization since 
___ (EGD suggestive of eosinophilic esophagitis)
Esophageal ulcerations seen on EGD ___, H.pylori negative
Hyperlipidemia
Psoriasis
GERD
Anxiety
Paroxysmal atrial fibrillation noted on multiple admissions in 
setting of vomiting (previously on Pradaxa, changes to aspirin 
___ for c/f esophageal tear/bleeing ___ recurrent retching)

s/p lumbar laminectomy ___
s/p spondylolisthesis surgery ___
s/p right inguinal hernia repair in ___, now with right 
hydrocele
 
Social History:
___
Family History:
Father: ankylosing spondylitis and ___ disease, as well as 
peptic ulcer disease and a small-bowel obstruction
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
============================= 
VS: 97.8; 110/69; 98; 18; 96% on RA  
General: in NAD  
HEENT: NCAT. MMM. Face and neck are flushed. EOMI. ___.  
Neck: No JVD. No adenopathy  
CV: RRR, no MRG  
Lungs: (+) egophony on L mid-lower lobes, (+) decreased breath 
sounds on R, no wheeze/crackles 
Abdomen: BS+. Obese. Non-distended. Soft. Non-tender to light 
and deep palpation  
Ext: WWP. No edema  
Neuro: A&Ox3. CNII-XII grossly in tact   

DISCHARGE EXAM:
=============================
VS:97.7 BP: 132/88 HR: 64 R: 14 O2: 99%RA
General: Sitting in chair in NAD
HEENT: anicteric, MMM
Heart: RRR, no M/R/G
Lungs:  Clear B/L on auscultation no wheeze, no WOB
Abdomen: Obese, soft,+ BS, NT, ND
Extremities: WWP, no edema, multiple bruises
Neuro: AOOx3, fluent speech, attentive
Psych: calm, appropriate
 
Pertinent Results:
ADMISSION LABS:
============================
___ 08:51PM BLOOD WBC-23.8*# RBC-4.24* Hgb-12.1* Hct-37.3* 
MCV-88 MCH-28.5 MCHC-32.4 RDW-19.2* RDWSD-60.4* Plt ___
___ 08:51PM BLOOD Neuts-79.3* Lymphs-9.3* Monos-8.9 
Eos-0.2* Baso-0.4 NRBC-0.2* Im ___ AbsNeut-18.87*# 
AbsLymp-2.21 AbsMono-2.11* AbsEos-0.05 AbsBaso-0.10*
___ 08:51PM BLOOD Plt Smr-HIGH Plt ___
___ 09:19PM BLOOD ___ PTT-32.5 ___
___ 08:51PM BLOOD Glucose-263* UreaN-8 Creat-0.7 Na-135 
K-3.7 Cl-100 HCO3-19* AnGap-20
___ 08:51PM BLOOD ALT-25 AST-29 AlkPhos-107 TotBili-0.5
___ 06:02AM BLOOD Calcium-7.7* Phos-3.9 Mg-1.4*
___ 08:51PM BLOOD Albumin-3.7
___ 01:03AM BLOOD Type-ART FiO2-94 O2 Flow-5 pO2-123* 
pCO2-28* pH-7.54* calTCO2-25 Base XS-3 AADO2-522 REQ O2-87 
Intubat-NOT INTUBA Comment-NASAL ___
___ 01:03AM BLOOD Glucose-187* Lactate-1.1 Na-134 K-3.4 
Cl-114*
___ 09:07PM BLOOD Lactate-2.5*

MICRO:
============================
___ Blood cultures x 2 sets: No Growth (FINAL)
___ MRSA screen: NEGATIVE
___ Urine Legionella Ag: NEGATIVE
___ Urine Strep pneumonia Ag: NEGATIVE
___ Blood cultures x 2 sets: No Growth (FINAL)
___ Urine culture: No Growth (FINAL)
___ Flu A PCR: NEGATIVE
___ Flu B PCR: NEGATIVE
___ Blood cultures x 1 set: No Growth (FINAL)

IMAGING:
============================
___ CTA TORSO 
IMPRESSION:
1. Bilateral lower lobe pneumonia. Enlarged mediastinal lymph 
node is likely reactive. 
2. Re- demonstration of multifocal ground-glass opacities which 
may represent a component of multifocal pneumonia, though the 
distribution appears somewhat similar to the prior examination 
and may represent drug reaction. 
3. No acute aortic abnormality or pulmonary embolus. 
4. New, subtle 3.9 x 2.6 cm hypoattenuating lesion in hepatic 
segment IV B. 
5. Bony sequela of ankylosing spondylitis, as above. Stable 
vertebral body compression deformities, as above. 
6. Chronic small airways disease. 

___ CHEST (PORTABLE AP)
IMPRESSION:
Mild basal atelectasis.  Otherwise unremarkable.

___ PCXR
IMPRESSION:
Compared to prior chest radiographs since ___, most 
recently ___.
Relatively mild opacification at the lung bases has improved 
since ___.
Basal pneumonia is easy to miss, but there are no findings in 
the mid or upper lungs to suggest infection. Pulmonary vascular 
congestion and mild cardiomegaly persists but mediastinal veins 
are less distended.

___ Echocardiogram
Very limited image quality. The left atrium is normal in size. 
Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF = 70%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The number of aortic valve leaflets 
cannot be determined. The aortic valve is not well seen. There 
is no aortic valve stenosis. No aortic regurgitation is seen. 
The mitral valve leaflets are structurally normal. Mild (1+) 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. The pulmonary artery is not 
well visualized. There is a small pericardial effusion. There 
are no echocardiographic signs of tamponade.
Compared with the prior study (images reviewed) of ___ the 
findings are grossly similar, but the technically suboptimal 
nature of both studies precludes definitive comparison.

___ PA/LAT CXR
IMPRESSION:
In comparison to chest radiograph of ___, multifocal 
poorly defined pulmonary opacities have progressed in the 
interval including an ill-defined opacity in the left juxta 
hilar region and poorly defined nodular opacities in the right 
upper and mid lungs.  Left basilar atelectasis has improved.  No 
pleural effusion.

___ CT HEAD
IMPRESSION:
1.  No evidence of intracranial hemorrhage
2.  Unchanged prominent ventricles and sulci, suggesting 
cortical volume loss 
3.  Chronic sinus disease.

DISCHARGE LABS:
============================
___ 07:40AM BLOOD WBC-10.6* RBC-3.72* Hgb-10.6* Hct-32.8* 
MCV-88 MCH-28.5 MCHC-32.3 RDW-19.4* RDWSD-61.7* Plt ___
___ 07:40AM BLOOD ___ PTT-41.8* ___
___ 07:40AM BLOOD Glucose-133* UreaN-13 Creat-0.6 Na-140 
K-4.6 Cl-106 HCO3-27 AnGap-12
___ 07:19AM BLOOD ALT-20 AST-22 AlkPhos-80 TotBili-0.___RIEF SUMMARY STATEMENT:
==================================
___ M PMHx ankylosing spondylitis c/b subsequent 
steroid-induced DM, paroxysmal atrial fibrillation (not on 
warfarin), and gastroparesis who presented with emesis and back 
pain x 12 hours admitted to ICU for sepsis and acute hypoxemic 
respiratory failure, found bilateral pulmonary embolism and 
multi-focal pneumonia

ACTIVE ISSUES: 
==================================
# SEPSIS
# Multi-focal pneumonia
Patient presented with CT scan that was concerning for 
pneumonia. Since he was in the hospital 1.5 months ago, he was 
put on antibiotics for HCAP vs aspiration PNA due to recent 
multiple episodes of nausea/vomiting. Atypical PNA was also 
considered given the multifocal nature of PNA on CT scan. He 
received Vanc/Cefepime/Flagyl and Levaquin, and was given 
boluses of IV fluids. Blood cultures, urine legionella antigen 
and urine strep pneumonia antigen were all NEGATIVE. . Patient 
had persistent fevers while on medicine floor. Given 
immunocompromised state on prednisone and infliximab, pulmonary 
was consulted but did not suggest bronchoscopy as pt's symptoms 
and fevers improved shortly after Pulmonary consultation.  
Patient's antibiotics were narrowed to levofloxacin only and he 
completed 7 days of antibiotics after his last fever on ___.

# PULMONARY EMBOLISM:
CT scan of chest on admission showed bilateral sub segmental 
PEs.  Patient was previously on dabigatran which was held given 
his severe gastroparesis with retching due to bleeding risk in 
patient with low CHADS-2. After discussion with outpatient 
providers it was decided to start the patient on warfarin 
instead of a NOAC, as he has history of recurrent vomiting, with 
increased risk for UGIB.  This is his ___ time VTE and appears 
unprovoked.  We recommend 3 months minimum of anticoagulation.  
He will need thrombophillia work-up and routine cancer 
screening.  He had an echocardiogram that did NOT show any 
evidence of right heart strain.  He is being referred to the 
___ (multi-disciplinary pulmonary ___ clinic) and 
has follow up scheduled in Hematology. INR on discharge 2.3

# DELIRIUM
# Altered mental status
Patient was noted to have waxing and waning mental status, 
consistent with delirium.  Unclear trigger for his delirium.  
Head CT without bleed.  No new medications.  No evidence of new 
infection.  No significant
metabolic derangement.  He was treated with a few dose of PRN 
Zyprexa. He was seen by occupational therapy and was found to 
have significant improvement in mental status. His mental status 
was back to baseline prior to discharge.

# FALL:
While admitted the patient had an unwitnessed mechanical fall 
while anticoagulated. Patient was on telemetry when he tripped 
and no cardiac events occurred during that time. The patient 
initially refused CT scans of head and neck and was able to 
verbalize and communicate the risk of intracranial hemorrhage 
including death. Patient's neurologic exam remained stable 
throughout his hospitalization.  He ultimately had a CT Head 
that did NOT show any bleed.

# NAUSEA/VOMITING DUE TO GASTROPARESIS:
Patient had extensive history of nausea/vomiting flares 
occurring 5x/year for the past ___ years. He has had extensive 
prior workup, including EGD, tryptase, C1-esterase, small bowel 
follow through (SBFT); all were negative. He also had tried many 
medications before this (amitriptyline, fexofenadine, 
erythromycin), which all failed. On admission, he was unable to 
tolerate PO due to gastroparesis. IV Zofran & Ativan were 
continued. ___ 2.5mg BID were continued.  He was seen by 
Swallow and SLP did not feel a video swallow or dietary 
modifications needed.

# ANKYLOSING SPONDYLITIS: 
Continued prednisome 5mg BID and calcium carbonate 500mg BID 
with qmonthly Remicade injections. On admission, patient had 
severe pain, so was started on IV dilaudid as needed. He was 
converted to PO Dilaudid 2mg BID, which is reportedly a home 
medication for him, prescribed by an outpatient MD. 

# AFIB: 
CHADS-2 score 2 (DM2, HTN), takes ASA 325mg at home. Was 
continued initially on home aspirin and diltiazem 240mg daily. 
While in the hospital, his home metoprolol succinate 100mg daily 
was fractionated to metoprolol tartrate 25mg q6 hours.  His ASA 
was reduced to 81mg once he was started on systemic 
anticoagulation for acute PE, as noted above.

CHRONIC STABLE ISSUES:
=====================================
# T2DM - Reportedly steroid-induced. last A1C was 7.7 in ___
Continued home Lantus, albeit at reduced dose given acute 
illness.  Mealtime blood sugar managed with SSI.

# GERD: Continued home omeprazole, ranitidine 
 
# Depression/Anxiety: Continued home Fluoxetine 40 mg PO daily;  


# Hyperlipidemia/CAD: Continued aspirin (reduced to 81mg now 
that he is on systemic anticoagulation with VKA) and pravastatin 
40 mg PO QHS.  TTE this admission to eval for right heart strain 
shows preserved EF, no focal wall motion abnormality.

Transitional Issues:
1.  Repeat chest imaging with CT chest to document resolution of 
infiltrates / multi-focal PNA, r/o underlying mass lesions
2.  Dedicated MRI liver to eval abnormality seen incidentally on 
CTA Torso
3.  INR monitoring and Coumadin dosing to be titrated, please 
check IN Rom ___. Goal INR ___.  f/u for PE with Hematology  Will need thrombophilia work-up, 
up-to-date cancer screening and consider Hematology referral for 
w/u of unprovoked PE.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. FLUoxetine 40 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
7. Calcium Carbonate 500 mg PO BID 
8. HYDROmorphone (Dilaudid) 2 mg PO BID:PRN pain 
9. Indomethacin XR 75 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Ondansetron 8 mg PO Q6H:PRN nausea 
12. Metoprolol Succinate XL 100 mg PO DAILY 
13. Omeprazole 20 mg PO BID 
14. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
15. Pravastatin 40 mg PO QPM 
16. PredniSONE 5 mg PO BID 
17. Ranitidine 300 mg PO DAILY 
18. Lantus (insulin glargine) 12 Units subcutaneous QHS 
19. MetFORMIN (Glucophage) 1000 mg PO BID 
20. Dronabinol 2.5 mg PO BID 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. Aspirin EC 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Dronabinol 2.5 mg PO BID 
RX *dronabinol 2.5 mg 1 capsule(s) by mouth twice a day Disp 
#*10 Capsule Refills:*0
7. FLUoxetine 40 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Indomethacin XR 75 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6hrs prn pain Disp #*20 
Tablet Refills:*0
12. Pravastatin 40 mg PO QPM 
13. PredniSONE 5 mg PO BID 
14. Ranitidine 300 mg PO DAILY 
15. MetFORMIN (Glucophage) 1000 mg PO BID 
16. Metoprolol Succinate XL 100 mg PO DAILY 
17. Omeprazole 20 mg PO BID 
18. Ondansetron 8 mg PO Q6H:PRN nausea 
19. HYDROmorphone (Dilaudid) 2 mg PO BID:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth BID as 
needed for pain Disp #*10 Tablet Refills:*0
20. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
21. Senna 8.6 mg PO BID 
22. Warfarin 4 mg PO DAILY16 
23. ClonazePAM 1 mg PO Q6H:PRN anxiety 
RX *clonazepam 1 mg 1 tablet(s) by mouth Q6hrs PRN Anxiety Disp 
#*16 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hospital-acquired pneumonia
Gastroparesis
Pulmonary embolism
Delirium
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to ___ with nausea and vomiting.  You were 
found to have pneumonia which was treated with antibiotics.  You 
completed a course of antibiotics as an inpatient. You were also 
found to have blood clots in the lungs and were started on a 
medication called warfarin to thin you blood to prevent future 
clots. You will need to have your warfarin levels monitored by 
your Primary Care Physician as an outpatient to adjust the dose 
as needed. Please see below for your ___ appointments.
As we discussed, there is a lesion on your liver that will need 
___ with dedicated MRI of the liver.  Please discuss with 
your PCP at outpatient ___ how to schedule this imaging 
test.  Your PCP has been notified of this finding as well.
We also recommend that you have a repeat chest X-ray or CT scan 
of your chest in ___ weeks to document complete resolution of 
your pneumonia.  Your PCP can also arrange for this test.
 
Followup Instructions:
___